US07994203B2
Step 1: 3-(2,4-Dichloro-phenyl)-2,6-dimethyl-7-nitro-pyrazolo[5,1-b]oxazole:
To a solution of 3-(2,4-dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole (Intermediate HE) (768 mg, 2.73 mmol) in MeCN (13 ml) is added nitronium tetrafluoroborate (0.5M solution in sulfolane, 6.6 ml, 3.3 mmol, 1.2 eq.). The dark orange reaction mixture is stirred at RT for 3 h then diluted into Et2O (150 ml) and washed successively with Na2CO3 1M in water (100 ml), water (100 ml) and brine (50 ml). The organic layer is dried over Na2SO4, filtered and concentrated to dryness under reduced pressure. The resulting crude residue is purified by Combi-Flash Companion™ (Isco Inc.) column chromatography (SiO2; gradient elution, heptane/TBME 95:5→7:3) to yield the title compound as a greenish solid. TLC: RF=0.27 (heptane/TBME 3:1); HPLC: AtRet=2.73; MS: m/z 325.8 [M+H]+; 1H NMR (400 MHz, CDCl3) δ 2.49 (s, 3H), 2.66 (s, 3H), 7.47 (dd, J 8.3, 2.0, 1H), 7.52 (d, J 8.3, 1H), 7.64 (d, J 2.0, 1H).

reactant | 3-(2,4-dichloro-phenyl)-2,6-dimethyl-pyrazolo[5,1-b]oxazole | 2.73 mmol, 768 mg | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=CC(=N2)C | C13H10Cl2N2O
reactant | nitronium tetrafluoroborate | 3.3 mmol, 0.5M, 6.6 ml, 1.2 eq. | F[B-](F)(F)F.O=[N+]=O
reactant | Et2O | 150 ml | CCOCC | C4H10O
solvent | MeCN | 13 ml | CC#N | C2H3N
product | 3-(2,4-Dichloro-phenyl)-2,6-dimethyl-7-nitro-pyrazolo[5,1-b]oxazole | ClC1=C(C=CC(=C1)Cl)C=1N2C(OC1C)=C(C(=N2)C)[N+](=O)[O-] | C13H9Cl2N3O3
